US07737135B2
a) 1-(4-bromo-2-fluorobenzoyl)-3,3-difluoro-pyrrolidine
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid and 3,3-difluoropyrrolidine, hydrochloride salt and triethylamine (2 molar equivalent).

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 3,3-difluoropyrrolidine, hydrochloride salt | Cl.FC1(CNCC1)F
solvent | triethylamine | 2 molar | C(C)N(CC)CC | C6H15N
product | 1-(4-bromo-2-fluorobenzoyl)-3,3-difluoro-pyrrolidine | BrC1=CC(=C(C(=O)N2CC(CC2)(F)F)C=C1)F | C11H9BrF3NO
